US06310074B1
Step A: N-{2-[5-Methoxy-1-(phenylsulphonyl)-1H-indol-3-yl]ethyl}acetamide
5 g of melatonin are dissolved in 150 ml of dichloromethane, and then 3.41 g of sodium hydroxide and 0.35 g of tetrabutylammonium hydrogen sulphate are added. The reaction mixture is then cooled in an ice-bath, and 4.06 ml of benzenesulphonyl chloride are added dropwise. After stirring overnight at room temperature, the excess sodium hydroxide and the catalyst are filtered off, the solvent is removed by evaporation in vacuo, and the resulting solid is recrystallised to yield the title product in the form of white crystals.

reactant | melatonin | 5 g | CC(=O)NCCC1=CNC2=C1C=C(C=C2)OC | C13H16N2O2
reactant | sodium hydroxide | 3.41 g | [OH-].[Na+]
reactant | benzenesulphonyl chloride | 4.06 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulphate | 0.35 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-{2-[5-Methoxy-1-(phenylsulphonyl)-1H-indol-3-yl]ethyl}acetamide | COC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CCNC(C)=O | C19H20N2O4S
